US09428511B2
Step 1: (R,E)-tert-Butyl 3,3-dimethyl-4-(1-phenylethylimino)piperidine-1-carboxylate
A solution of (R)-1-phenylethanamine (2.56 g, 21.12 mmol) and triethylamine (14.7 mL, 106 mmol) in dichloromethane (40 mL) was cooled in an ice bath and titanium tetrachloride (8.80 mL, 8.80 mmol) was added dropwise giving a light brown mixture. The cold bath was removed and tert-butyl 3,3-dimethyl-4-oxopiperidine-1-carboxylate (4.00 g, 17.60 mmol) was added as solid in one portion and the resulting mixture was allowed to stir at rt overnight. To the resulting mixture was added 75 mL of diethyl ether and the mixture was stirred at rt for 15 min then filtered through a pad of CELITE® to remove the solids and the filter cake was rinsed with additional ether (30 mL×2). The resulting clear yellow filtrate was concentrated on a rotovap to afford a yellow liquid as the title compound (5.80 g, 17.6 mmol, quantitative). This material was used directly without any further purification.

reactant | (R)-1-phenylethanamine | 21.12 mmol, 2.56 g | C1(=CC=CC=C1)[C@@H](C)N | C8H11N
reactant | triethylamine | 106 mmol, 14.7 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyl 3,3-dimethyl-4-oxopiperidine-1-carboxylate | 17.60 mmol, 4.00 g | CC1(CN(CCC1=O)C(=O)OC(C)(C)C)C | C12H21NO3
reactant | diethyl ether | 75 mL | C(C)OCC | C4H10O
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | 8.80 mmol, 8.80 mL | [Ti](Cl)(Cl)(Cl)Cl
product | (R,E)-tert-Butyl 3,3-dimethyl-4-(1-phenylethylimino)piperidine-1-carboxylate | 17.6 mmol, 5.80 g | CC/1(CN(CC\C1=N/[C@H](C)C1=CC=CC=C1)C(=O)OC(C)(C)C)C | C20H30N2O2
